US05948819
Synthesis of 4-methoxy-3-isochromanone
Pyridinium p-toluenesulfonate (0.30 g) was added to a solution of ethyl α-methoxy-2-(tetrahydropyran-2-yloxy-methyl)phenylacetate (14.00 g, 45.4 mmol) in methanol (50 ml), and the mixture was heated under reflux for 1 hour. The mixture was cooled to room temperature, and water (50 ml) was added. The mixture was extracted with methylene chloride and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by recrystallization from n-hexane/ethyl acetate (=1/1) to give the desired compound 4-methoxy-3-isochromanone (6.00 g, 74.2%) as white crystals.

reactant | Pyridinium p-toluenesulfonate | 0.30 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ethyl α-methoxy-2-(tetrahydropyran-2-yloxy-methyl)phenylacetate | 45.4 mmol, 14.00 g | COC(C(=O)OCC)C1=C(C=CC=C1)COC1OCCCC1 | C17H24O5
reactant | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4-methoxy-3-isochromanone | 6.00 g, 74.2% | COC1C(OCC2=CC=CC=C12)=O | C10H10O3
